US07429607B2
To a solution of 1-(2-ethoxy-naphthalen-1-yl)-ethanone (26 g) in tetrahydrofuran (200 mL) at 0° C. was added phenyl trimethylammonium tribromide (50 g). The mixture was stirred at 0° C. for 10 minutes and then at room temperature for 4.5 hours. The mixture was washed with water (200 mL) and the aqueous phase was extracted with diethyl ether. The combined organics were washed with water (200 mL), dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to afford a dark green sticky solid. The sticky solid was triturated with diethyl ether (100 mL) and filtered to give 2,2-dibromo-1-(2-ethoxy-naphthalen-1-yl)-ethanone (12.6 g, 35%) as an off-white solid. The filtrate was evaporated to a dark green oil and purified by column chromatography, elution with 40% to 60% dichloromethane in cyclohexane, affording 2-bromo-1-(2-ethoxy-naphthalen-1-yl)-ethanone (15.8 g, 44%) as an off-white solid. 1H NMR (CDCl3): 1.45 (3H, m), 4.2 (2H, m), 4.5 (2H, m), 7.2 (1H, m), 7.4 (1H, m), 7.5 (1H, m), 7.8 (2H, m), 7.9 (1H, m).

reactant | 1-(2-ethoxy-naphthalen-1-yl)-ethanone | 26 g | C(C)OC1=C(C2=CC=CC=C2C=C1)C(C)=O | C14H14O2
reactant | phenyl trimethylammonium tribromide | 50 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2,2-dibromo-1-(2-ethoxy-naphthalen-1-yl)-ethanone | 12.6 g, 35% | BrC(C(=O)C1=C(C=CC2=CC=CC=C12)OCC)Br | C14H12Br2O2
